US04985417
Preparation of 4-(N-carbobenzyloxy-DL-leucylamino)benzenesulfonamide
Observing the procedure of Example I, N-carbobenzyloxy-DL-leucine is reacted with 4-amino-benzenesulfonamide to yield the desired product, 4-(N-carbobenzyloxy-DL-leucylamino)benzene-sulfonamide having a mp. of 167°-8° C.

reactant | N-carbobenzyloxy-DL-leucine | C(=O)(OCC1=CC=CC=C1)NC(CC(C)C)C(=O)O | C14H19NO4
reactant | 4-amino-benzenesulfonamide | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
product | 4-(N-carbobenzyloxy-DL-leucylamino)benzene-sulfonamide | C(=O)(OCC1=CC=CC=C1)NC(CC(C)C)C(=O)NC1=CC=C(C=C1)S(=O)(=O)N | C20H25N3O5S
